US05798374
The title compound was prepared in a manner similar to that described in Example 5. Cyclohexyl isothiocyanate (3.53 g) in 10 mL of acetonitrile was added to hydrazine (0.8 g) in 20 mL of acetonitrile over a period of 30 minutes. The reaction was stirred for two additional hours and evaporated to dryness to give 4.4 g of 4-cyclohexylcarbonyl-3-thiosemicarbazide. 4-Cyclohexylcarbonyl-3-thiosemicarbazide (2.02 g) was treated as in example 5 with ethyl chloroformate (1.08 g). The reaction product 3-hydroxy-5-mercapto!-4-cyclohexyl-1,2,4-triazole (1.0 g) was reacted with 1.05 g of 2-bromo-5-nitrothiazole as in example 5. Crystallization from ethanol and water gave 0.3 g of 3-hydroxy-5-[(5-nitrothiazol-2-yl)mercapto]-4-cyclohexyl-1,2,4-triazole, a yellow solid, MP 237°-239° C.

reactant | 4-Cyclohexylcarbonyl-3-thiosemicarbazide | 2.02 g | C1(CCCCC1)C(=O)NC(NN)=S | C8H15N3OS
reactant | ethyl chloroformate | 1.08 g | ClC(=O)OCC | C3H5ClO2
reactant | 4-cyclohexyl-1,2,4-triazole | 1.0 g | C1(CCCCC1)N1C=NN=C1 | C8H13N3
reactant | 2-bromo-5-nitrothiazole | 1.05 g | BrC=1SC(=CN1)[N+](=O)[O-] | C3HBrN2O2S
product | 3-hydroxy-5-[(5-nitrothiazol-2-yl)mercapto]-4-cyclohexyl-1,2,4-triazole | 0.3 g | OC1=NN=C(N1C1CCCCC1)SC=1SC(=CN1)[N+](=O)[O-] | C11H13N5O3S2
